US07491794B2
Synthesis of Thiazol-2-ylaminosulfamide
The titled compound was prepared according to the same procedures described for the synthesis of N-cyclopropylsulfamide above, substituting cyclopropyl amine with 2-amino thiozol. However, the Boc-protected intermediate was never isolated due to loss of the protection group during reaction work-up and the following recrystallization steps. The titled product was isolated after silica gel column chromatography (Biotage 40 M, eluent=5-10% MeOH in DCM). 1H NMR (d6-DMSO, 400 MHz)  6.52 (br s, 2H), 6.75 (d, 1H), 7.19 (d, 1H), 12.1 (br s, 1H). MS m/z 180 (ESI+, MH+).

reactant | N-cyclopropylsulfamide | C1(CC1)NS(=O)(=O)N | C3H8N2O2S
reactant | 2-amino thiozol | C1=CSC(=N1)N | C3H4N2S
product | Thiazol-2-ylaminosulfamide | S1C(=NC=C1)NNS(=O)(=O)N | C3H6N4O2S2
